US03947470
Reaction of 3-[4-(4-bromobutoxy)benzoyl]-2-phenylbenzofuran with methylamine according to the procedure described in Example 4 gives 3-[4-(4-methylaminobutoxy)benzoyl]-2-phenylbenzofuran.

reactant | 3-[4-(4-bromobutoxy)benzoyl]-2-phenylbenzofuran | BrCCCCOC1=CC=C(C(=O)C2=C(OC3=C2C=CC=C3)C3=CC=CC=C3)C=C1 | C25H21BrO3
reactant | methylamine | CN | CH5N
product | 3-[4-(4-methylaminobutoxy)benzoyl]-2-phenylbenzofuran | CNCCCCOC1=CC=C(C(=O)C2=C(OC3=C2C=CC=C3)C3=CC=CC=C3)C=C1 | C26H25NO3
